US05120843
4-(2,6-Bis(1-pyrrolidinyl)-4-pyrimidinyl)-N-(4-hydroxy-3,5-dimethylphenyl)-1-piperazineacetamide (I/A-22)
To 2,6-dimethyl-4-aminophenol hydrogen chloride (5.0 g) in methylene chloride (20 ml) is added triethylamine (6.5 g) in methylene chloride (20 ml) dropwise at 0°. To the cold solution is added chloroacetylchloride (3.6 g) in methylene chloride (20 ml) dropwise over 5-10 m. The mixture is stirred at 0° for 30 min and then at 20°-25° for 1 hr. The mixture is washed with water (60 ml), dried over sodium sulfate and the solvent removed at reduced pressure to give a solid. MS (EI, m/e)=213, 215 (M+). Acetonitrile (40 ml), 2,6-bis(1-pyrrolidinyl)-4-(1-piperazinyl)pyrimidine (PREPARATION A-22, 1.42 g), potassium carbonate (0.65 g) are added to the solid and the mixture is heated at reflux for 10 hr. The solvent is removed at reduced pressure and residue is distributed between chloroform (100 ml) and water (100 ml). The phases are separated and the organic phase is dried over sodium sulfate and the solvent is removed at reduced pressure to give an oil. The oil is flash chromatographed on silica gel (175 g) eluting with ethyl acetate/hexane (2/1). The appropriate fractions were pooled and concentrated to give the title compound.

reactant | 2,6-dimethyl-4-aminophenol hydrogen chloride | 5.0 g | Cl.CC1=C(C(=CC(=C1)N)C)O
reactant | chloroacetylchloride | 3.6 g | ClCC(=O)Cl | C2H2Cl2O
reactant | 2,6-bis(1-pyrrolidinyl)-4-(1-piperazinyl)pyrimidine | 1.42 g | N1(CCCC1)C1=NC(=CC(=N1)N1CCNCC1)N1CCCC1 | C16H26N6
reactant | potassium carbonate | 0.65 g | C([O-])([O-])=O.[K+].[K+]
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | Acetonitrile | 40 ml | C(C)#N | C2H3N
solvent | triethylamine | 6.5 g | C(C)N(CC)CC | C6H15N
product | 4-(2,6-Bis(1-pyrrolidinyl)-4-pyrimidinyl)-N-(4-hydroxy-3,5-dimethylphenyl)-1-piperazineacetamide | N1(CCCC1)C1=NC(=CC(=N1)N1CCN(CC1)CC(=O)NC1=CC(=C(C(=C1)C)O)C)N1CCCC1 | C26H37N7O2
